US06887896B1
Ethyl (2E)-3-(3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-enoate (Compound A-40)
To a solution of triethyl 2-fluoro-2-phosphonoacetate (0.61 g, 2.50 mmol) in THF (5 mL) at −78° C. was added n-butyllithium (1.6 M in hexane, 1.6 mL, 2.5 mmol). After 10 min, a solution of 1-(3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone (Compound A-25, 122 mg, 0.50 mmol) in THF (2 mL) was added and the reaction was stirred for 6 b while warming gradually to room temperature. The reaction was then quenched with aqueous NH4Cl and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, 2% ethyl acetate in hexanes) to give the title compound as a colorless oil.

reactant | triethyl 2-fluoro-2-phosphonoacetate | 2.50 mmol, 0.61 g | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | n-butyllithium | 2.5 mmol, 1.6 M, 1.6 mL | C(CCC)[Li]
reactant | 1-(3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone | 0.50 mmol, 122 mg | C(C)OC=1C(=CC=2C=CCC(C2C1)(C)C)C(C)=O | C16H20O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | Ethyl (2E)-3-(3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-enoate | C(C)OC=1C(=CC=2C=CCC(C2C1)(C)C)/C(=C(\C(=O)OCC)/F)/C | C20H25FO3
